US04350817
1-Allyl-1,2-Dihydro-7-Methyl-2-Oxo-4-(1-Pyrrolidinyl)-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester
A stirred mixture of 0.49 g. (0.0016 mole) of 1-allyl-4-chloro-1,2-dihydro-7-methyl-2-oxo-1,8-naphthridine-3-carboxylic acid ethyl ester, 0.11 g. (0.0016 mole) of pyrrolidine and 0.16 g. (0.0016 mole) sodium carbonate in 20 ml. of ethanol was heated under reflux for 5 hours. The mixture was filtered and the filtrate was diluted with water to the cloudy point. The precipitate which formed was collected, air dried and was recrystallized from heptane to give 0.2 g. of the title compound, m.p. 97°-103° C.

reactant | 1-allyl-4-chloro-1,2-dihydro-7-methyl-2-oxo-1,8-naphthridine-3-carboxylic acid ethyl ester | 0.0016 mole | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1Cl)C)CC=C)=O | C15H15ClN2O3
reactant | pyrrolidine | 0.0016 mole | N1CCCC1 | C4H9N
reactant | sodium carbonate | 0.0016 mole | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Allyl-1,2-Dihydro-7-Methyl-2-Oxo-4-(1-Pyrrolidinyl)-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1N1CCCC1)C)CC=C)=O | C19H23N3O3
